US08664387B2
To a solution of 5-amino-8-bromoisoquinoline-6-carboxylic acid hydrochloride (1.00 g, 3.29 mmol) in 10 mL of dichloromethane and 2 mL of DMF was added (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (1.65 g, 3.74 mmol), (1S,2S)-2-aminocyclohexanol (0.430 g, 3.74 mmol), and triethylamine (1.20 mL, 8.62 mmol). After 3 h, the mixture was diluted with additional dichloromethane, washed with water, saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-3% methanol in dichloromethane, to provide crude 5-amino-8-bromo-N-[(1S,2S)-2-hydroxycyclohexyl]isoquinoline-6-carboxamide.

reactant | 5-amino-8-bromoisoquinoline-6-carboxylic acid hydrochloride | 3.29 mmol, 1.00 g | Cl.NC1=C2C=CN=CC2=C(C=C1C(=O)O)Br
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 3.74 mmol, 1.65 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (1S,2S)-2-aminocyclohexanol | 3.74 mmol, 0.430 g | N[C@@H]1[C@H](CCCC1)O | C6H13NO
reactant | triethylamine | 8.62 mmol, 1.20 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-amino-8-bromo-N-[(1S,2S)-2-hydroxycyclohexyl]isoquinoline-6-carboxamide | NC1=C2C=CN=CC2=C(C=C1C(=O)N[C@@H]1[C@H](CCCC1)O)Br | C16H18BrN3O2
